US04370326
A mixture of 4-nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)glyoxyloylamino]-3-hydroxy-3-cephem-4-carboxylate (0.7 g) and conc.hydrochloric acid (0.23 g) in methanol (10 ml) was stirred at room temperature for 3 hours. The solvent was evaporated in vacuo and the residue was triturated with diisopropyl ether. The precipitates were collected by filtration and washed with diisopropyl ether to give 4-nitrobenzyl 7-[2-(2-aminothiazol-4-yl)glyoxyloylamino]-3-hydroxy-3-cephem-4-carboxylate hydrochloride (0.6 g).

reactant | 4-nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)glyoxyloylamino]-3-hydroxy-3-cephem-4-carboxylate | 0.7 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=O | C20H15N5O9S2
reactant | hydrochloric acid | 0.23 g | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 4-nitrobenzyl 7-[2-(2-aminothiazol-4-yl)glyoxyloylamino]-3-hydroxy-3-cephem-4-carboxylate hydrochloride | 0.6 g | Cl.NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=O | InChI=1S/C19H15N5O8S2.ClH/c20-19-21-10(6-34-19)14(26)15(27)22-12-16(28)23-13(11(25)7-33-17(12)23)18(29)32-5-8-1-3-9(4-2-8)24(30)31;/h1-4,6,12,17,25H,5,7H2,(H2,20,21)(H,22,27);1H/t12?,17-;/m1./s1
